US04096264
A solution of 0.542 gm. (0.002 mole) of 3-nitro-6-phenylthioimidazo [1,2-a] pyridine in 20 ml. of dioxane is reduced at 40 psi. under a hydrogen atmosphere with 0.500 g. of 5% palladium on carbon as catalyst. When the uptake of hydrogen is complete, the catalyst is removed by filtration. The filtrate is evaporated in vacuo to yield 3-amino-6-phenylthioimidazo [1,2-a] pyridine.

reactant | 3-nitro-6-phenylthioimidazo [1,2-a] pyridine | 0.002 mole | [N+](=O)([O-])C1=CN=C2N1C=C(C=C2)SC2=CC=CC=C2 | C13H9N3O2S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-amino-6-phenylthioimidazo [1,2-a] pyridine | NC1=CN=C2N1C=C(C=C2)SC2=CC=CC=C2 | C13H11N3S
